US05110983
Preparation of 2-(4-aminophenyl)-2-[4-(3-aminophenoxy)phenyl]hexafluoropropane
22.8 g (0.05 mol) of 2-(4-aminophenyl)-2-[4-(3-nitrophenoxy)phenyl]hexafluoropropane were dissolved in 600 cm3 of ethyl acetate, 1 g of palladium on charcoal was added, and the mixture was reduced in a 1 dm3 steel autoclave at about 25° C. using hydrogen (100 bar). When the take-up of hydrogen was complete, the catalyst was filtered off and all the ethyl acetate was removed. The oily, brown crude product was chromatographed over basic alumina using ethyl acetate as eluent. The principal fraction was evaporated to dryness, giving 18 g of a highly viscous, pale yellow residue. 9.5 g of the pale yellow residue were suspended in 100 cm3 of hydrochloric acid (1:1), and 400 cm3 of water were added at the boiling point. The turbid solution was treated twice at the boiling point with 5 g of activated charcoal in each case. The clear, colorless solution was cooled to 20° C., a white solid precipitating out. The suspension was adjusted to a pH of 8-9 under a protective gas (nitrogen) using dilute ammonia solution. The solid was, under a protective gas, filtered off, washed with water and dried.

reactant | 2-(4-aminophenyl)-2-[4-(3-nitrophenoxy)phenyl]hexafluoropropane | 0.05 mol, 22.8 g | NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)OC1=CC(=CC=C1)[N+](=O)[O-] | C21H14F6N2O3
reactant | hydrogen | [H][H] | H2
reactant | water | 400 cm3 | O | H2O
reactant | charcoal | 5 g | C | CH4
solvent | ethyl acetate | 600 cm3 | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
solvent | hydrochloric acid | 100 cm3 | Cl | ClH
product | 2-(4-aminophenyl)-2-[4-(3-aminophenoxy)phenyl]hexafluoropropane | NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)OC1=CC(=CC=C1)N | C21H16F6N2O
